Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
narcotics
 
Attending: ___.
 
Chief Complaint:
s/p fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old male who complains of s/ fall. The 
patient has a history of severe ___ and dementia. He 
fell down 3 steps and landed on his chest. This was witnessed by 
his wife. There was no head strike or loss
of consciousness, He is complaining of right-sided chest wall 
diffuse pain. There is no shortness of breath. There are no new 
neurologic symptoms. Every weekend the patient sleeps a lot and 
he has been doing that again over this
weekend. According to the wife, there is no change in his 
neurologic status over the past 2 days aside from his usual 
progression of his disease.
 

 
Past Medical History:
PMH:  Advanced ___ body dementia/incontinence, 
dyslipidemia, depression, spinal stenosis, BPH

PSH: C5-C6 laminectomy and arthrodesis C3-C6

 
Family History:
Non-contributory
 
Physical Exam:
On admission:

Temp: 98 HR: 63 BP: 121/80 Resp: 20 O(2)Sat: 100
 
HEENT: Normocephalic, atraumatic, Pupils equal, round and
reactive to light, Extraocular muscles intact
Chest: Clear to auscultation right chest wall
tender
Cardiovascular: Regular Rate and Rhythm, Normal first and
second heart sounds
Abdominal: Soft, Nontender
Extr/Back: No cyanosis, clubbing or edema
 
On discharge:

VS 97.6, 73, 116/50, 16, 96% on room air

 
Pertinent Results:
___ 06:37AM BLOOD WBC-9.5 RBC-4.22* Hgb-14.2 Hct-41.0# 
MCV-97 MCH-33.6* MCHC-34.6 RDW-12.9 Plt ___
___ 09:10AM BLOOD WBC-16.7* RBC-5.27 Hgb-17.2 Hct-51.6 
MCV-98 MCH-32.7* MCHC-33.4 RDW-12.8 Plt ___
___ 09:10AM BLOOD Neuts-90.3* Lymphs-4.6* Monos-3.6 Eos-0.3 
Baso-1.1
___ 09:10AM BLOOD ___ PTT-29.9 ___
___ 06:51AM BLOOD Glucose-105* UreaN-16 Creat-0.7 Na-140 
K-3.6 Cl-106 HCO3-25 AnGap-13
___ 06:37AM BLOOD Glucose-104* UreaN-26* Creat-1.1 Na-141 
K-4.0 Cl-103 HCO3-27 AnGap-15
___ 09:10AM BLOOD Glucose-107* UreaN-15 Creat-1.0 Na-142 
K-4.2 Cl-99 HCO3-30 AnGap-17
___ 06:51AM BLOOD Calcium-8.3* Phos-2.9 Mg-2.0
___ 06:37AM BLOOD Calcium-8.6 Phos-3.2 Mg-2.1
___ 09:10AM BLOOD Calcium-9.9 Phos-3.0 Mg-2.4

Imaging:

___ CT CHEST WITHOUT CONTRAST
FINDINGS: The thyroid is unremarkable. Note is made of coronary 
artery 
calcifications.  Otherwise, the heart, pericardium, and great 
vessels appear 
unremarkable. There is no mediastinal, hilar, or axillary 
lymphadenopathy. 
  
Multiple rib fractures are present. There are lateral rib 
fractures of the 
right 3 -6 th.  The right 5th rib is aso fractured posteriorly. 
The fractures 
of the 5th rib are displaced.  There is no pneumothorax. There 
is a small 
right pleural effusion, cannot exclude a tiny hemothorax.  There 
is no lung 
consolidation. Lung contusion or laceration cannot be excluded. 
Bibasilar 
atelectasis is present.  
  
There is no compression deformity of the visualized thoracic 
spine. 

___ RIB UNILAT, W/ AP CHEST RIGHT
Six views of the ribcage provided.  There are multiple right rib 

fractures, specifically noted to be mildly displaced involving 
the right 
third, fourth, and fifth ribs along the posterolateral arch.  
There is no 
pneumothorax.  No additional fractures are seen.  Findings are 
better 
appreciated on the CT chest from approximately 30 minutes 
earlier. 

 
Brief Hospital Course:
Mr. ___ was admitted to the Acute Care Surgery service on 
___ after he sustained a fall at home resulting in right-sided 
rib fractures.  Multiple radiologic exams confirmed no other 
acute head, abdominal or pelvic trauma other than the rib 
fractures.  The patient was admitted to the inpatient ward for 
closer observation.  He was given a regular diet and started on 
his home medications.  Due to his history of ___ and 
___ body dementia, narcotics were minimized, if not avoided, in 
this patient.  He was primarily given non-narcotic analgesics, 
which seemed to control his pain fairly well.  His baseline 
blood counts and metabolic panel were checked and electrolytes 
were repleted as necessary.  Physical therapy evaluated the 
patient and recommended that he be discharged to a ___ 
facility due to the patient's current physical limitations and 
the acute pain secondary to his rib fractures.

On hospital day 2, the patient experienced low urine output 
requiring 1.5 liters of crystalloids.  His urine output 
increased adequately thereafter.  On the day of discharge, the 
patient was urinating approximately 25cc/hr.  The patient's 
creatinine today was 0.7, down from 1 and 1.1 from prior two 
days.  The patient was encouraged to increase his PO intake.

At the time of discharge, Mr. ___ was afebrile, 
hemodynamically stable and hemodynamically stable.  A follow-up 
appointment with ACS has been scheduled with a chest x-ray to be 
done prior to the appointment.
 
Medications on Admission:
Sinemet, topical nystatin, topical triamcinolone, citalopram 30'
Aricept 15', namenda 10'', seroquel 25hs,  
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H 
2. Carbidopa-Levodopa (___) 1 TAB PO Q60MINUTES prn patient 
need 
3. Carbidopa-Levodopa (___) 2 TAB PO QAM 
4. Citalopram 30 mg PO DAILY 
5. Donepezil 15 mg PO HS 
6. Lidocaine 5% Patch 1 PTCH TD DAILY 
7. Memantine 10 mg PO BID 
8. Nystatin Cream 1 Appl TP BID 
9. Quetiapine Fumarate 25 mg PO QHS 
10. Triamcinolone Acetonide 0.1% Ointment 1 Appl TP HS 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right 3 - 6 lateral rib fractures
Right 3, 5 posterior rib fractures

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to ___ on 
___ after you fell at home.  On further evaluation, you were 
found to have right 3 - 6 rib fractures.  You were admitted to 
the inpatient ward for pain management and close observation.

You are now being discharged to a rehabilitation facility with 
the following discharge instructions:

You sustained rib fractures which can cause severe pain and 
subsequently cause you to take shallow breaths because of the 
pain. You should take your pain medicine as as directed to stay 
ahead of the pain otherwise you won't be able to take deep 
breaths.  If the pain medication is too sedating, take half the 
dose and notify your physician.

Pneumonia is a complication of rib fractures. In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake. This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs. 

You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.

Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.

Do NOT smoke.

Return to the ED right away for any acute shortness of breath, 
increased pain or crackling sensation around your rips 
(crepitus).

Narcotic pain medication can cause constipation. Therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.

If your doctor allows, non steriodal ___ drugs are 
very effective in controlling pain (i.e. Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
Followup Instructions:
___